US07727998B2
4-Chlorophenylacetic acid (5.0 g) was dissolved in 10% hydrogen chloride-methanol solution (50 ml) and heated under reflex for 14 hours. The solvent then was removed under reduced pressure and saturated sodium hydrogencarbonate solution was added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and condensed under reduced pressure to provide methyl 2-(4-chlorophenyl)acetate (5.35 g) as a colorless, oily substance.

reactant | 4-Chlorophenylacetic acid | 5.0 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | hydrogen chloride methanol | 50 ml | Cl.CO
product | methyl 2-(4-chlorophenyl)acetate | 5.35 g | ClC1=CC=C(C=C1)CC(=O)OC | C9H9ClO2
